US04308208
Methyl α-methylthio(m-benzoylphenyl)acetate (713 mg) was dissolved in 6 ml of anhydrous dimethylformamide, and with ice cooling, 100 mg (65% content) of sodium hydride was added. The mixture was stirred for 30 minutes. The reaction mixture turned black violet. When 0.3 ml of methyl iodide was added with ice cooling, the color vanished immediately. The mixture was stirred for 10 minutes at room temperature, and then an aqueous solution of ammonium chloride (500 mg/30 ml) was added. The mixture was extracted three times with 20 ml of diethyl ether. The organic layer was washed three times with 10 ml of water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using benzene and methylene chloride as eluents to give 111 mg of methyl α-methylthio-α-(m-benzoylphenyl)propionate and 461 mg of a mixture which was shown by NMR analysis to consist of methyl α-methylthio(m-benzoylphenyl)acetate and methyl α-methylthio-α-(m-benzoylphenyl)propionate (the mole ratio=7:11).

reactant | Methyl α-methylthio(m-benzoylphenyl)acetate | 713 mg | CSC(C(=O)OC)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C17H16O3S
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | methyl iodide | 0.3 ml | CI | CH3I
reactant | ammonium chloride | 30 ml, 500 mg | [Cl-].[NH4+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | methyl α-methylthio-α-(m-benzoylphenyl)propionate | 111 mg | CSC(C(=O)OC)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C18H18O3S
